US09063126B2
1-(diphenylmethylene)-2-p-tolylhydrazine
General procedure A was used to convert benzophenone hydrazone (6.31 g, 32.3 mmol; Aldrich) and 1-bromo-4-methylbenzene 5.0 g, 29.2 mmol; Aldrich) into the title compound: MS (DCI/NH3) m/z 287 (M+H)+.

reactant | benzophenone hydrazone | 32.3 mmol, 6.31 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 1-bromo-4-methylbenzene | 29.2 mmol, 5.0 g | BrC1=CC=C(C=C1)C | C7H7Br
product | 1-(diphenylmethylene)-2-p-tolylhydrazine | C1(=CC=CC=C1)C(=NNC1=CC=C(C=C1)C)C1=CC=CC=C1 | C20H18N2
